US07829560B2
A mixture of 2-chloro-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide (200 umol, 1 eq), morpholine (2 mmol, 10 eq.) and ethanol (2 ml) is heated at 100° C. for 3-4 days in a 2-dram vial with agitation. The mixture is cooled to room temperature and concentrated. The crude mixture is purified by flash column chromatography and re-crystallized from methanol to afford 2-morpholin-4-yl-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide. 1H NMR (300 MHz, DMSO-d6) δ 10.41 (s, 1H), 8.31 (d, 1H), 8.21 (m, 1H), 7.85 (m, 1H), 7.58 (m, 2H), 2.42 (m, 2H), 7.23 (d, 1H), 7.08 (d, 1H), 4.38 (t, 2H), 3.78 (m, 4H), 3.60 (m, 8H), 2.88 (t, 2H) 2.58 (m, 4H). MS: 463.3 (M+1).

reactant | 2-chloro-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide | 200 umol, 1 eq | ClC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=CN1 | C22H22ClN3O3
reactant | morpholine | 2 mmol, 10 eq. | N1CCOCC1 | C4H9NO
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-morpholin-4-yl-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide | N1(CCOCC1)C=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=CN1 | C26H30N4O4
